reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])([H:14])[O:6]1>>[C:1]([C:2](/[C:3](=[C:4](\[C:5]([O:6][H:7])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10])[H:8],92.2686135136341
[C:1](/[C:2](=[N:3]/[H:10])[O:4][C:5](=[O:6])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]1[N:3]([H:10])[O:6][C:5]([H:9])([H:11])[O:4]1)([H:7])[H:8],113.11187747981
[O:1]([C:2][C:3]([C:4]([C:5]#[C:6][H:12])([H:8])[H:11])([H:9])[H:10])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7],20.621155486777596
[C:1]([C@@:2]([O:3][H:12])([C-:4]=[O+:5][C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],27.209986148970202
[C:1]([N:2]([C:3](=[O:4])[H:11])[C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[H:11])[C:5]([O:6][H:13])=[C:7]([H:12])[H:14])([H:8])([H:9])[H:10],63.72135460319329
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([H:15])([H:16])[H:17])=[O:6])[H:10])([H:7])([H:8])[H:9].[H:14][H:18]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C@@:4]([C:5]([H:15])([H:16])[H:17])([O:6][H:18])[H:14])[H:10])([H:7])([H:8])[H:9],68.2640491656828
[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[C:3]1([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6]([H:9])=[N:7]1>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],43.016307291256105
[C-:1]([O+:2]=[C:3]([H:11])[H:12])([H:8])[H:10].[C:4](=[O:5])([O:6][C:7]([H:13])([H:14])[H:15])[H:9]>>[C:1]([O:2][C:3]([C:4](=[O:5])[O:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],7.652201392181112
[C:1]([C:2]([C:3]([C:4]([C:5][O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],28.271001730266292
[C:1]([C:2]([C@@:3]1([H:13])[C:4]([H:14])([H:15])[C@:5]1([C:6]([O:7][H:19])([H:17])[H:18])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[C:3](/[C:4](/[C:5](=[C:6](\[O:7][H:19])[H:18])[H:16])([H:14])[H:15])[H:13])[H:12])([H:8])([H:9])[H:10].[H:11][H:17],68.58116840079799
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8]>>[C-:6]#[O+:7].[C:4](=[O:5])([H:9])[H:10].[N:1](=[C:2]=[O:3])[H:8],56.834920221230405
[N:1]([C@@:2]1([H:12])[O:3]/[C:6](=[N:7]\[H:13])[O:5][C:4]1([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],80.51900086121414
[C-:5]#[O+:6].[C:1](/[N:2]=[C:3](/[O:4][C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[H:11])[C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10],75.35388795001991
[C:6](=[O:7])([H:8])[H:13].[O:1]=[C:2]([C:3]([C:4](=[O:5])[H:12])([H:10])[H:11])[H:9]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],60.23581010737227
[C:1]([C:2]([C:3](=[O:4])[C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:14]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],69.0824114503551
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]([C:5][H:15])([O:6][H:14])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],71.599029235873
[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([N:3]([C-:2]=[O+:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],99.8020683046741
[C:1](/[N:2]=[C:3](/[N+:4](=[C-:5][O:6][H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],35.387088341597206
[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:7])[H:9].[N:3](\[C:4]([H:12])([H:13])[H:14])=[C:5](/[O:6][H:8])[H:15],61.505990293352795
[N:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N+:1]([C-:2]([C:3]#[N:4])[H:9])([C:5]#[N:6])([H:7])[H:8],79.153497516189
[C:1]([C+:2]([N:3]([O-:4])[H:10])[C:5]#[C:6][H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]\[O:4][H:10])[C:5]#[C:6][H:11])([H:7])([H:8])[H:9],45.07301334418735
[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[N:1](=[C:2](/[O:3][H:7])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])\[H:8],45.146080137631905
[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6][O:7][H:13])([H:8])([H:9])[H:10],81.5639713685286
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:15])([H:7])([H:8])[H:9].[O:4]([H:13])[H:16]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]([O:6][H:16])([H:14])[H:15])([H:7])([H:8])[H:9],61.979977764544316
